US07662771B2
5-[4-(2-hydroxy-phenyl)-5-methyl-oxazol-2-yl]-pentanoic acid
Combine 5-[4-(2-hydroxy-phenyl)-5-methyl-oxazol-2-yl]-pentanoic acid methyl ester (2.9 g, 10.0 mmol) with THF (3 mL), EtOH (3 mL) and 2N NaOH (20 mL) and stir until hydrolysis is complete. Concentrate the mixture, dilute the residue with water and adjust the pH to 2.0-3.0 with aq HCl. Extract the mixture with EtOAc and dry the extracts over Na2SO4 before concentrating. Chromatograph the residue over silica gel (MeOH/CH2Cl2) to allow for recovery of 5-[4-(2-hydroxy-phenyl)-5-methyl-oxazol-2-yl]-pentanoic acid (2.14 g, 78%). MS (ES): (M+1)+ 276.2 m/z.

reactant | 5-[4-(2-hydroxy-phenyl)-5-methyl-oxazol-2-yl]-pentanoic acid methyl ester | 10.0 mmol, 2.9 g | COC(CCCCC=1OC(=C(N1)C1=C(C=CC=C1)O)C)=O | C16H19NO4
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | NaOH | 2N, 20 mL | [OH-].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | 5-[4-(2-hydroxy-phenyl)-5-methyl-oxazol-2-yl]-pentanoic acid | OC1=C(C=CC=C1)C=1N=C(OC1C)CCCCC(=O)O | C15H17NO4
